US04492692
Reaction of 4-chloromethyl-2-fluoro-1-triphenylmethylimidazole with ethyl isocyanoacetate/potassium t-butoxide in THF followed by chromatography on silica gel gave 4-(2-ethoxycarbonyl-2-isocyanoethyl)-2-fluoro-1-triphenylmethylimidazole having the following n.m.r. in CDCl3 : 1.24 (t, 2H); 2.7-3.17 (d, 2H); 4.18 (q, 1H); 4.5 (dd, 1H); 6.4 (s, 1H); 7.0-7.4 (m, 15H).

reactant | 4-chloromethyl-2-fluoro-1-triphenylmethylimidazole | ClCC=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)F | C23H18ClFN2
reactant | ethyl isocyanoacetate potassium t-butoxide | [N+](#[C-])CC(=O)OCC.CC(C)([O-])C.[K+]
solvent | THF | C1CCOC1 | C4H8O
product | 4-(2-ethoxycarbonyl-2-isocyanoethyl)-2-fluoro-1-triphenylmethylimidazole | C(C)OC(=O)C(CC=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)F)[N+]#[C-] | C28H24FN3O2
